US07285545B2
An oven-dried Schienk tube was charged with 2-bromo-4-tert-butyl-6-nitroanisole (500 mg, 1.74 mmol), 2-pyrrolidinone (158 μL, 2.09 mmol), Pd2(dba)3 (32 mg, 0.035 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (58 mg, 0.1 mmol) and Cs2CO3 (795 mg, 2.44 mmol). The tube was capped with a rubber septum, purged with argon and 1,4-dioxane (7 mL) was then added through the septum via a syringe. The tube was sealed with a teflon screwcap, and the reaction mixture was stirred at 100 C for 20 h. The reaction mixture was cooled to room temperature, diluted with EtOAc (100 mL), washed with water, brine and dried over anhydrous Na2SO4. The solvent was removed in vacuo, and crude product was purified by column chromatography (2:1 hexane-EtOAc) to give 1-(5-tert-butyl-2-methoxy-3-nitro-phenyl)-pyrrolidin-2-one (150 mg, 30%).

reactant | 2-bromo-4-tert-butyl-6-nitroanisole | 1.74 mmol, 500 mg | BrC1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])OC | C11H14BrNO3
reactant | 2-pyrrolidinone | 2.09 mmol, 158 μL | N1C(CCC1)=O | C4H7NO
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.1 mmol, 58 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | Cs2CO3 | 2.44 mmol, 795 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.035 mmol, 32 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(5-tert-butyl-2-methoxy-3-nitro-phenyl)-pyrrolidin-2-one | 150 mg, 30% | C(C)(C)(C)C=1C=C(C(=C(C1)N1C(CCC1)=O)OC)[N+](=O)[O-] | C15H20N2O4
